US06653313B2
C. Dimethyl2-{2-[2-({2-[(tert-butoxycarbonyl)(ethyl)amino]ethoxy}methyl)phenyl]ethyl}-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate
To an ice-cooled stirred solution of dimethyl 4-(2,6-dichlorophenyl)-2-[2-(2-{[2-(ethylamino)ethoxy]methyl}phenyl)ethyl]-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate (700 mg/1.13 mmol) in dichloromethane (50 ml) was added di-t-butyl carbonate (297 mg/1.36 mmol) and triethylamine (172 mg/1.70 mmol). The reaction mixture was warmed to room temperature and stirred for 1.5 h. The reaction mixture was quenched with water. The separated organic layer was washed with water, dried over MgSO4, filtered and concentrated to give a crude mixture. This crude was purified by column chromatography on silica gel (CH2Cl2:MeOH=40:1) to afford a yellow amorphous (813 mg/quant.).

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-[2-(2-{[2-(ethylamino)ethoxy]methyl}phenyl)ethyl]-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | 1.13 mmol, 700 mg | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CC(=O)OC)CCC1=C(C=CC=C1)COCCNCC)C(=O)OC | C31H36Cl2N2O7
reactant | di-t-butyl carbonate | 1.36 mmol, 297 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 1.70 mmol, 172 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Dimethyl2-{2-[2-({2-[(tert-butoxycarbonyl)(ethyl)amino]ethoxy}methyl)phenyl]ethyl}-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1Cl)Cl)C(=O)OC)CC(=O)OC)CCC1=C(C=CC=C1)COCCN(CC)C(=O)OC(C)(C)C | C36H44Cl2N2O9
